*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.002/0.003


.subckt chiplet1
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
*+nd_1_0_3000_7333
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_666 0 116.884
rdesr_0_0_0_0 nd_1_0_1000_666 nd_1_0_1000_666_ci 116.884
cd_0_0_0_0 nd_1_0_1000_666_ci 0 1.7111e-11
rdload_0_0_0_1 nd_1_0_3000_666 0 33.5662
rdesr_0_0_0_1 nd_1_0_3000_666 nd_1_0_3000_666_ci 33.5662
cd_0_0_0_1 nd_1_0_3000_666_ci 0 5.95837e-11
rdload_0_0_0_2 nd_1_0_5000_666 0 69.994
rdesr_0_0_0_2 nd_1_0_5000_666 nd_1_0_5000_666_ci 69.994
cd_0_0_0_2 nd_1_0_5000_666_ci 0 2.85739e-11
rdload_0_0_0_3 nd_1_0_7000_666 0 59.2419
rdesr_0_0_0_3 nd_1_0_7000_666 nd_1_0_7000_666_ci 59.2419
cd_0_0_0_3 nd_1_0_7000_666_ci 0 3.37599e-11
rdload_0_0_0_4 nd_1_0_9000_666 0 867.776
rdesr_0_0_0_4 nd_1_0_9000_666 nd_1_0_9000_666_ci 867.776
cd_0_0_0_4 nd_1_0_9000_666_ci 0 2.30474e-12
rdload_0_0_0_5 nd_1_0_1000_2000 0 242.031
rdesr_0_0_0_5 nd_1_0_1000_2000 nd_1_0_1000_2000_ci 242.031
cd_0_0_0_5 nd_1_0_1000_2000_ci 0 8.2634e-12
rdload_0_0_0_6 nd_1_0_3000_2000 0 32.812
rdesr_0_0_0_6 nd_1_0_3000_2000 nd_1_0_3000_2000_ci 32.812
cd_0_0_0_6 nd_1_0_3000_2000_ci 0 6.09533e-11
rdload_0_0_0_7 nd_1_0_5000_2000 0 30.018
rdesr_0_0_0_7 nd_1_0_5000_2000 nd_1_0_5000_2000_ci 30.018
cd_0_0_0_7 nd_1_0_5000_2000_ci 0 6.66268e-11
rdload_0_0_0_8 nd_1_0_7000_2000 0 27.6918
rdesr_0_0_0_8 nd_1_0_7000_2000 nd_1_0_7000_2000_ci 27.6918
cd_0_0_0_8 nd_1_0_7000_2000_ci 0 7.22236e-11
rdload_0_0_0_9 nd_1_0_9000_2000 0 49.1861
rdesr_0_0_0_9 nd_1_0_9000_2000 nd_1_0_9000_2000_ci 49.1861
cd_0_0_0_9 nd_1_0_9000_2000_ci 0 4.06619e-11
rdload_0_0_0_10 nd_1_0_1000_3333 0 43.1518
rdesr_0_0_0_10 nd_1_0_1000_3333 nd_1_0_1000_3333_ci 43.1518
cd_0_0_0_10 nd_1_0_1000_3333_ci 0 4.6348e-11
rdload_0_0_0_11 nd_1_0_3000_3333 0 32.1072
rdesr_0_0_0_11 nd_1_0_3000_3333 nd_1_0_3000_3333_ci 32.1072
cd_0_0_0_11 nd_1_0_3000_3333_ci 0 6.22914e-11
rdload_0_0_0_12 nd_1_0_5000_3333 0 29.5278
rdesr_0_0_0_12 nd_1_0_5000_3333 nd_1_0_5000_3333_ci 29.5278
cd_0_0_0_12 nd_1_0_5000_3333_ci 0 6.77328e-11
rdload_0_0_0_13 nd_1_0_7000_3333 0 27.2864
rdesr_0_0_0_13 nd_1_0_7000_3333 nd_1_0_7000_3333_ci 27.2864
cd_0_0_0_13 nd_1_0_7000_3333_ci 0 7.32967e-11
rdload_0_0_0_14 nd_1_0_9000_3333 0 391.392
rdesr_0_0_0_14 nd_1_0_9000_3333 nd_1_0_9000_3333_ci 391.392
cd_0_0_0_14 nd_1_0_9000_3333_ci 0 5.10996e-12
rdload_0_0_0_15 nd_1_0_1000_4666 0 185.649
rdesr_0_0_0_15 nd_1_0_1000_4666 nd_1_0_1000_4666_ci 185.649
cd_0_0_0_15 nd_1_0_1000_4666_ci 0 1.0773e-11
rdload_0_0_0_16 nd_1_0_3000_4666 0 75.8806
rdesr_0_0_0_16 nd_1_0_3000_4666 nd_1_0_3000_4666_ci 75.8806
cd_0_0_0_16 nd_1_0_3000_4666_ci 0 2.63572e-11
rdload_0_0_0_17 nd_1_0_5000_4666 0 61.914
rdesr_0_0_0_17 nd_1_0_5000_4666 nd_1_0_5000_4666_ci 61.914
cd_0_0_0_17 nd_1_0_5000_4666_ci 0 3.23029e-11
rdload_0_0_0_18 nd_1_0_7000_4666 0 53.0626
rdesr_0_0_0_18 nd_1_0_7000_4666 nd_1_0_7000_4666_ci 53.0626
cd_0_0_0_18 nd_1_0_7000_4666_ci 0 3.76913e-11
rdload_0_0_0_19 nd_1_0_9000_4666 0 46.0215
rdesr_0_0_0_19 nd_1_0_9000_4666 nd_1_0_9000_4666_ci 46.0215
cd_0_0_0_19 nd_1_0_9000_4666_ci 0 4.3458e-11
rdload_0_0_0_20 nd_1_0_1000_6000 0 41.1039
rdesr_0_0_0_20 nd_1_0_1000_6000 nd_1_0_1000_6000_ci 41.1039
cd_0_0_0_20 nd_1_0_1000_6000_ci 0 4.86572e-11
rdload_0_0_0_21 nd_1_0_3000_6000 0 30.9008
rdesr_0_0_0_21 nd_1_0_3000_6000 nd_1_0_3000_6000_ci 30.9008
cd_0_0_0_21 nd_1_0_3000_6000_ci 0 6.47233e-11
rdload_0_0_0_22 nd_1_0_5000_6000 0 60.104
rdesr_0_0_0_22 nd_1_0_5000_6000 nd_1_0_5000_6000_ci 60.104
cd_0_0_0_22 nd_1_0_5000_6000_ci 0 3.32757e-11
rdload_0_0_0_23 nd_1_0_7000_6000 0 1081.48
rdesr_0_0_0_23 nd_1_0_7000_6000 nd_1_0_7000_6000_ci 1081.48
cd_0_0_0_23 nd_1_0_7000_6000_ci 0 1.84932e-12
rdload_0_0_0_24 nd_1_0_9000_6000 0 44.8962
rdesr_0_0_0_24 nd_1_0_9000_6000 nd_1_0_9000_6000_ci 44.8962
cd_0_0_0_24 nd_1_0_9000_6000_ci 0 4.45472e-11
rdload_0_0_0_25 nd_1_0_1000_7333 0 39.9877
rdesr_0_0_0_25 nd_1_0_1000_7333 nd_1_0_1000_7333_ci 39.9877
cd_0_0_0_25 nd_1_0_1000_7333_ci 0 5.00154e-11
rdload_0_0_0_26 nd_1_0_3000_7333 0 30.3257
rdesr_0_0_0_26 nd_1_0_3000_7333 nd_1_0_3000_7333_ci 30.3257
cd_0_0_0_26 nd_1_0_3000_7333_ci 0 6.59507e-11
rdload_0_0_0_27 nd_1_0_5000_7333 0 27.9129
rdesr_0_0_0_27 nd_1_0_5000_7333 nd_1_0_5000_7333_ci 27.9129
cd_0_0_0_27 nd_1_0_5000_7333_ci 0 7.16514e-11
rdload_0_0_0_28 nd_1_0_7000_7333 0 49.758
rdesr_0_0_0_28 nd_1_0_7000_7333 nd_1_0_7000_7333_ci 49.758
cd_0_0_0_28 nd_1_0_7000_7333_ci 0 4.01945e-11
rdload_0_0_0_29 nd_1_0_9000_7333 0 231.198
rdesr_0_0_0_29 nd_1_0_9000_7333 nd_1_0_9000_7333_ci 231.198
cd_0_0_0_29 nd_1_0_9000_7333_ci 0 8.65058e-12
rdload_0_0_0_30 nd_1_0_1000_8666 0 38.722
rdesr_0_0_0_30 nd_1_0_1000_8666 nd_1_0_1000_8666_ci 38.722
cd_0_0_0_30 nd_1_0_1000_8666_ci 0 5.16502e-11
rdload_0_0_0_31 nd_1_0_3000_8666 0 65.7064
rdesr_0_0_0_31 nd_1_0_3000_8666 nd_1_0_3000_8666_ci 65.7064
cd_0_0_0_31 nd_1_0_3000_8666_ci 0 3.04384e-11
rdload_0_0_0_32 nd_1_0_5000_8666 0 55.5836
rdesr_0_0_0_32 nd_1_0_5000_8666 nd_1_0_5000_8666_ci 55.5836
cd_0_0_0_32 nd_1_0_5000_8666_ci 0 3.59818e-11
rdload_0_0_0_33 nd_1_0_7000_8666 0 431.378
rdesr_0_0_0_33 nd_1_0_7000_8666 nd_1_0_7000_8666_ci 431.378
cd_0_0_0_33 nd_1_0_7000_8666_ci 0 4.63631e-12
rdload_0_0_0_34 nd_1_0_9000_8666 0 192.69
rdesr_0_0_0_34 nd_1_0_9000_8666 nd_1_0_9000_8666_ci 192.69
cd_0_0_0_34 nd_1_0_9000_8666_ci 0 1.03794e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val122'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val123'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val124'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val125'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val126'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val127'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'




*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_3333  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_7333  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_1000_666  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_1000_3333  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_1000_4666  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_1000_6000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_1000_8666  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3000_2000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3000_3333  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_3000_6000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_3000_7333  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_3000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3000_666  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3000_3333  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3000_4666  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3000_6000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3000_8666  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_5000_2000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_5000_3333  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_5000_6000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_5000_7333  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_5000_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_5000_666  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_5000_3333  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_5000_4666  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_5000_6000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_5000_8666  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_7000_2000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_7000_3333  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_7000_6000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_7000_7333  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_7000_8666  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7000_666  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7000_3333  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7000_4666  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7000_6000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7000_8666  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_9000_2000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_9000_3333  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_9000_6000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_9000_7333  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_9000_8666  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_9000_666  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_9000_3333  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_9000_4666  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_9000_6000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_9000_8666  0.001

.ends chiplet1
